US05985900
To a suspension of D-penicillamine (10.0 g., 67.02 mmol) in methanol (100 mL) at 0° C. was added 14.5 mL (67 mmol) of a 25 wt % solution of sodium in methanol dropwise. After 15 minutes, methyl acrylate (6.35 mL, 70 mmol) was added dropwise, and the solution was allowed to warm to room temperature overnight. Removal of the solvent by rotary evaporation provided a white solid, which was dissolved in 50% aqueous (100 mL). To the resulting solution was added triethylamine (14 mL, 100 mmol), followed by di-t-butyldicarbonate (16.05 g., 73.6 mmol). After stirring for 12 hours at room temperature, the mixture was concentrated to remove most of the THF, and the resulting aqueous solution was acidified with acetic acid and then extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated. The residue was dissolved in THF (75 mL) and DBU (10.2 mL, 68.2 mmol) added, followed by addition of allyl bromide (6.14 mL, 71.0 mmol). The solution was stirred at room temperature for 5 hours, and then the solvent was removed by concentration under reduced pressure. The residue was purified on silica gel, eluting with 5% to 10% to 20% ethyl acetate in hexane, to provide N-(tert-butoxycarbonyl)--S--[2-(methoxycarbonyl)ethyl]-D-penicillamine allyl ester as a colorless oil in 44% overall yield: 1H--NMR (CDCl3) δ 1.36 (s, 3H), 1.38 (s, 3H), 1.44 (s, 9H), 2.52-2.57 (t, 2H, J=8 Hz), 2.75-2.82 (m, 2H), 3.69 (s, 3H), 4.32-4.35 (m, 1H), 4.62-4.64 (m, 2H), 5.27-5.39 (m, 3H), 5.85-6.00 (m, 1H); FAB HRMS:

reactant | D-penicillamine | 67.02 mmol, 10.0 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | sodium | [Na] | Na
reactant | methyl acrylate | 70 mmol, 6.35 mL | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 100 mmol, 14 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 73.6 mmol, 16.05 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DBU | 68.2 mmol, 10.2 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | allyl bromide | 71.0 mmol, 6.14 mL | C(C=C)Br | C3H5Br
solvent | methanol | 100 mL | CO | CH4O
product | N-(tert-butoxycarbonyl)--S--[2-(methoxycarbonyl)ethyl]-D-penicillamine allyl ester | C(C=C)OC([C@H](NC(=O)OC(C)(C)C)C(C)(C)SCCC(=O)OC)=O | C17H29NO6S
